US07745641B2
In a similar manner to Step 4 of Example 16, 4-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (2.50 g, 5.91 mmol) was dissolved in nitromethane (100 mL), and the solution was treated with trifluoroacetic acid (4.50 mL, 59.1 mmol) and triethylsilane (1.90 mL, 11.8 mmol). The obtained solid was collected by filtration and washed with ethyl acetate. The obtained solid was dried under reduced pressure to obtain 4-methoxy-7-iodoisoindolinone (1.32 g, yield 78%).

reactant | 4-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 5.91 mmol, 2.50 g | COC1=C2C(N(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C)O | C18H18INO3
reactant | trifluoroacetic acid | 59.1 mmol, 4.50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 11.8 mmol, 1.90 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | nitromethane | 100 mL | [N+](=O)([O-])C | CH3NO2
product | 4-methoxy-7-iodoisoindolinone | 1.32 g, yield 78% | COC1=C2CNC(C2=C(C=C1)I)=O | C9H8INO2
